US06855831B2
3.6 g of a 30% sodium methanolate solution (0.022 mol) are heated to a column head temperature of 108° C. in a mixture of 19 ml of toluene and 1 ml of dimethylformamide, methanol being removed by distillation. With removal of methanol by distillation being continued, 2.76 g (0.02 mol) of 4-methylene-3-oxabicyclo[3.2.1]octan-2-one dissolved in 3 ml of toluene are then added dropwise. After stirring for one hour, the mixture is cooled to a temperature of 20° C. and, while controlling the temperature, a solution in 1:1 toluene/acetonitrile of 6.32 g (0.022 mol) of 2,3-dichloro-4-methanesulfonylbenzoyl chloride freshly prepared with oxalyl chloride is introduced. After stirring briefly, extraction is carried out with a small amount of ethyl acetate against a slightly alkaline-aqueous solution at pH 10. 2,3-Dichloro-4-methanesulfonylbenzoic acid 4-oxobicyclo[3.2.1]oct-2-en-2-yl ester is obtained in the form of an amorphous crystallisate in a yield of 5.5 g (71%). 1H-NMR (DMSO-D6): 8.19 ppm, 2H; 5.85 ppm, s, 1H; 3.48 ppm, s, 3H; 3.07 ppm, m, 1H; 2.84 ppm, m, 1 H; 1.9-2.2 ppm, 4H; 1.7 ppm, 2H.

reactant | sodium methanolate | 0.022 mol | C[O-].[Na+]
reactant | 4-methylene-3-oxabicyclo[3.2.1]octan-2-one | 0.02 mol, 2.76 g | C=C1OC(C2CCC1C2)=O | C8H10O2
reactant | 2,3-dichloro-4-methanesulfonylbenzoyl chloride | 0.022 mol, 6.32 g | ClC1=C(C(=O)Cl)C=CC(=C1Cl)S(=O)(=O)C | C8H5Cl3O3S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 19 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene acetonitrile | C1(=CC=CC=C1)C.C(C)#N
solvent | methanol | CO | CH4O
product | 2,3-Dichloro-4-methanesulfonylbenzoic acid 4-oxobicyclo[3.2.1]oct-2-en-2-yl ester | O=C1C=C(C2CCC1C2)OC(C2=C(C(=C(C=C2)S(=O)(=O)C)Cl)Cl)=O | C16H14Cl2O5S
